US04565869
A solution of 21.6 g (0.15 mol) of 6-chloro-2,4-diaminopyrimidine in 100 ml of dry tetrahydrofuran is treated with 50 g (0.45 mol) of potassium t-butylate while stirring, whereupon the yellow suspension obtained is cooled to 0° and treated with a solution of 42.5 g (0.45 mol) of methyl chloroformate in 60 ml of dry tetrahydrofuran. The mixture is stirred at 0° for 1 hour and at room temperature overnight, treated with water while cooling with ice, adjusted with 3N sodium hydroxide solution to pH 10 and extracted with ethyl acetate. The organic phase is washed with 3N hydrochloric acid while cooling with ice, dried over magnesium sulphate and evaporated. The residue obtained is chromatographed on silica gel while eluting with toluene/ethyl acetate (7:3), there being obtained pure dimethyl 6-chloro-2,4-pyrimidinedicarbamate.

reactant | 6-chloro-2,4-diaminopyrimidine | 0.15 mol, 21.6 g | ClC1=CC(=NC(=N1)N)N | C4H5ClN4
reactant | methyl chloroformate | 0.45 mol, 42.5 g | ClC(=O)OC | C2H3ClO2
reactant | water | O | H2O
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | dimethyl 6-chloro-2,4-pyrimidinedicarbamate | ClC1=CC(=NC(=N1)NC(=O)OC)NC(=O)OC | C8H9ClN4O4
